US08859111B2
Synthesis of 4,4′-bis(diphenylamino)-9,9′-spirobifluorene
A well-stirred suspension of 35.5 g (50 mmol) of 4,4′-bis(diphenylamino)-1,1′-dimethoxy-9,9′-spirobifluorene, 18.1 g (100 mmol) of 1-phenyl-5-chlorotetrazole and 27.6 g (200 mmol) of K2CO3 is heated under reflux for 18 h in 250 ml of acetone. After cooling, the precipitated solid is filtered off with suction and dried. The solid is dissolved in 200 ml of toluene, 6 g of Pd/C (5%) are added, and the mixture is stirred at 40° C. for 8 h under a hydrogen atmosphere. After removal of the solvent, the residue is washed three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol and subsequently recrystallised three times from DMF (about 10 ml/g). Yield: 21.1 g (32.43 mmol), 65.0%, purity: 99.9% (HPLC).

reactant | 4,4′-bis(diphenylamino)-1,1′-dimethoxy-9,9′-spirobifluorene | 50 mmol, 35.5 g | C1(=CC=CC=C1)N(C1=CC=C(C=2C3(C4=CC=CC=C4C12)C1=CC=CC=C1C=1C(=CC=C(C13)OC)N(C1=CC=CC=C1)C1=CC=CC=C1)OC)C1=CC=CC=C1 | C51H38N2O2
reactant | 1-phenyl-5-chlorotetrazole | 100 mmol, 18.1 g | C1(=CC=CC=C1)N1N=NN=C1Cl | C7H5ClN4
reactant | K2CO3 | 200 mmol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4,4′-bis(diphenylamino)-9,9′-spirobifluorene | C1(=CC=CC=C1)N(C1=CC=CC=2C3(C4=CC=CC=C4C12)C1=CC=CC=C1C=1C(=CC=CC13)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C49H34N2
